US09085534B2
Preparation 14A: methyl 3-[(3,4-dichlorobenzyl)amino]pyridine-4-carboxylate
The title compound was prepared in 73% yield from 3,4-dichlorobenzylamine and methyl 3-bromoisonicotinate according to the procedure for Preparation 4A. 1H NMR (400 MHz, CDCl3): δ 8.10 (s, 1H), 7.95 (d, 1H, J=5.1 Hz), 7.87 (br s, 1H), 7.65 (d, 1H, J=5.1 Hz), 7.42 (d, 1H, J=8.7 Hz), 7.39 (s, 1H), 7.18 (dd, 1H, J=8.2 Hz), 4.48 (d, 2H, J=6.0 Hz), 3.91 (s, 3H). [M+H] calc'd for C14H12Cl2N2O2, 311, 313; found 311, 313.

reactant | 3,4-dichlorobenzylamine | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
reactant | methyl 3-bromoisonicotinate | BrC1=C(C(=O)OC)C=CN=C1 | C7H6BrNO2
product | methyl 3-[(3,4-dichlorobenzyl)amino]pyridine-4-carboxylate | 73% yield | ClC=1C=C(CNC=2C=NC=CC2C(=O)OC)C=CC1Cl | C14H12Cl2N2O2
